US07008957B2
1d) (S)-2-Benzyl-2-tert-butoxycarbonylaminopent-4-enecarboxylic acid
2.2 ml of 1N sodium hydroxide solution are added to a solution of 450 mg of (S)-2-amino-2-benzylpent-4-enecarboxylic acid in 8 ml of dioxane and 6 ml of water, and then 1.6 g of di-tert-butyl dicarbonate and 350 mg of potassium carbonate are added to the mixture, which is stirred at 40° C. for 7 hours. The dioxane is then stripped off in vacuo at room temperature, and the aqueous phase is adjusted to pH=3–4 with 10% strength citric acid and extracted with ethyl acetate (10 ml). The organic phase is dried over sodium sulfate and concentrated, and the oily residue is used unpurified for the further reactions.

reactant | sodium hydroxide | 1N, 2.2 ml | [OH-].[Na+]
reactant | (S)-2-amino-2-benzylpent-4-enecarboxylic acid | 450 mg | N[C@@](CC(=O)O)(CC=C)CC1=CC=CC=C1 | C13H17NO2
reactant | di-tert-butyl dicarbonate | 1.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | 350 mg | C([O-])([O-])=O.[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | water | 6 ml | O | H2O
product | (S)-2-Benzyl-2-tert-butoxycarbonylaminopent-4-enecarboxylic acid | C(C1=CC=CC=C1)[C@](CC(=O)O)(CC=C)NC(=O)OC(C)(C)C | C18H25NO4
